US05602160
(5) 3-Phenyl-5-{2-(1-pyrrolidinylmethyl)butyryl} isoxazole hydrochloride
In a similar manner to Example 1, 14 g (85.1 mmol) of 3-phenyl-5-butyrylisoxazole, 8.4 g (78.5 mmol) of pyrrolidine hydrochloride, 2.6 g (86.7 mmol) of paraformaldehyde and 20 droplets of concentrated hydrochloric acid were reacted in 20 ml of dioxane so that 3-phenyl-5-{2-(1-pyrrolidinylmethyl)butyvyl} was obtained.

reactant | 3-phenyl-5-butyrylisoxazole | 85.1 mmol, 14 g | C1(=CC=CC=C1)C1=NOC(=C1)C(CCC)=O | C13H13NO2
reactant | pyrrolidine hydrochloride | 78.5 mmol, 8.4 g | Cl.N1CCCC1
reactant | paraformaldehyde | 86.7 mmol, 2.6 g | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3-Phenyl-5-{2-(1-pyrrolidinylmethyl)butyryl} isoxazole hydrochloride | Cl.C1(=CC=CC=C1)C1=NOC(=C1)C(C(CC)CN1CCCC1)=O | InChI=1S/C18H22N2O2.ClH/c1-2-14(13-20-10-6-7-11-20)18(21)17-12-16(19-22-17)15-8-4-3-5-9-15;/h3-5,8-9,12,14H,2,6-7,10-11,13H2,1H3;1H
